US06639076B1
A solution consisting of ethyl 2-(2-naphthyl)acetate (1.07 grams, 5.0 mmol), N-bromosuccinimide (0.89 grams, 5.0 mmol), benzoyl peroxide (0.05 grams), and carbon tetrachloride (50 mL) was heated at reflux until complete as determined by hplc (3 hours). The reaction was cooled to ambient temperature, washed with water (2×25 mL), dried using sodium sulfate, and filtered. The filtrate was concentrated to dryness. The residue was purified using a Biotage Flash 40M system eluting with hexane:ethyl acetate (49:1) to give 1.20 grams (82%) of ethyl 2-bromo-2-(2-naphthyl)acetate, mp 80-82° C. MS (FIA) m/z 293.0 [(M+H)+]. Anal. calcd. for C14H13O2Br: C, 57.36; H, 4.47. Found: C, 57.62; H, 4.54. 1H nmr (CDCl3): δ 1.27-1.33 (t, 3H), 4.18-4.36 (m, 2H), 5.56 (s, 1H), 7.52-7.55 (m, 2H), 7.71-7.76 (m, 1H), 7.82-7.92 (m, 3H), 7.97 (s, 1H).

reactant | ethyl 2-(2-naphthyl)acetate | 5.0 mmol, 1.07 grams | C1=C(C=CC2=CC=CC=C12)CC(=O)OCC | C14H14O2
reactant | N-bromosuccinimide | 5.0 mmol, 0.89 grams | BrN1C(CCC1=O)=O | C4H4BrNO2
catalyst | benzoyl peroxide | 0.05 grams | C(C1=CC=CC=C1)(=O)OOC(C1=CC=CC=C1)=O | C14H10O4
solvent | carbon tetrachloride | 50 mL | C(Cl)(Cl)(Cl)Cl | CCl4
product | ethyl 2-bromo-2-(2-naphthyl)acetate | 1.20 grams, 82% | BrC(C(=O)OCC)C1=CC2=CC=CC=C2C=C1 | C14H13BrO2
